US05132307
A solution of 1 g of 2,2-dimethyl-4-(2-oxo-1,2-dihydro-1-pyridyl)-6-amino-1,2,3,4-tetrahydro-3-naphthol in 15 ml of formic acid and 1 ml of pyridine is boiled for 16 hours and evaporated. Working up in the customary manner gives 2,2-dimethyl-4-(2-oxo-1,2-dihydro-1-pyridyl)-6-formamido-1,2,3,4-tetrahydro-3-naphthol.

reactant | 2,2-dimethyl-4-(2-oxo-1,2-dihydro-1-pyridyl)-6-amino-1,2,3,4-tetrahydro-3-naphthol | 1 g | CC1(CC2=CC=C(C=C2C(C1O)N1C(C=CC=C1)=O)N)C | C17H20N2O2
reactant | formic acid | 15 ml | C(=O)O | CH2O2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-dimethyl-4-(2-oxo-1,2-dihydro-1-pyridyl)-6-formamido-1,2,3,4-tetrahydro-3-naphthol | CC1(CC2=CC=C(C=C2C(C1O)N1C(C=CC=C1)=O)NC=O)C | C18H20N2O3
